US05578722
(3S ,4S)-3-[(1R)-1-t-Butyldimethylsilyloxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-2-azetidinone (1.29 g, 3.0 mmol) is dissolved in toluene (10 ml), and thereto are added methanol (2 ml) and chlorotrimethylsilane (0.1 ml). The mixture is stirred at room temperature overnight. The reaction mixture is diluted with ethyl acetate (50 ml), washed several times with brine, dried over magnesium sulfate, and evaporated to remove the solvent to give (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)- 1-p-chlorophenylthiocarbonylethyl]-2-azetidinone (627 mg).

reactant | (3S ,4S)-3-[(1R)-1-t-Butyldimethylsilyloxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-2-azetidinone | 3.0 mmol, 1.29 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)=O | C20H30ClNO2SSi
reactant | methanol | 2 ml | CO | CH4O
reactant | chlorotrimethylsilane | 0.1 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)- 1-p-chlorophenylthiocarbonylethyl]-2-azetidinone | 627 mg | O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)=O | C14H16ClNO2S
